US09403804B2
a) 4-(4-Nitro-phenyl)-cyclohexanone
Concentrated H2SO4 (20 mL) was cooled to 0° C. and treated with 4-phenyl-cyclohexanone (4.22 g, 24.2 mmol), and fuming nitric acid (1.6 mL) was added very carefully dropwise, keeping the temperature of the mixture below 20° C. After the addition of nitric acid was complete, the mixture was warmed to RT and allowed to stir for 5 h. The mixture was poured over ice (200 mL) and extracted with EtOAc (3×150 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo. Silica gel chromatography with 10% EtOAc-hexane on a 70-g Isolute SPE column (FlashMaster system) afforded the title compound (0.512 g, 10%) as a pale yellow solid. 1H-NMR (CD3OD; 400 MHz): δ 8.20 (d, 2H, J=8.8 Hz), 7.42 (d, 2H, J=8.8 Hz), 3.16 (tt, 1H, J=12.0, 4.0 Hz), 2.58-2.51 (m, 4H), 2.31-2.21 (m, 2H), 2.05-1.91 (m, 2H).

reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
reactant | 4-phenyl-cyclohexanone | 24.2 mmol, 4.22 g | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | nitric acid | 1.6 mL | [N+](=O)(O)[O-] | HNO3
product | 4-(4-Nitro-phenyl)-cyclohexanone | 0.512 g, 10% | [N+](=O)([O-])C1=CC=C(C=C1)C1CCC(CC1)=O | C12H13NO3
